US05064861
STEP A: Naphthoxy acetic acid chloride
10 g of naphthoxy-acetic acid and 60 ml of thionyl chloride were refluxed for 2 hours and after evaporating to dryness under reduced pressure, several distillations with benzene were carried out to obtain 11.16 g of the expected product which was used as is for Step B.

reactant | naphthoxy-acetic acid | 10 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
product | Naphthoxy acetic acid chloride | 11.16 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)Cl | C12H9ClO2
